US05478856
To a solution of 2 g (11.0 mmol) of syringaldehyde and 1.2 ml (11.3 mmol) of ethyl cyanoacetate in 30 ml of ethanol was added 2 ml of piperidine, and the mixture was stirred at room temperature for 16 hours. The solution was evaporated under reduced pressure, subsequently the residue was acidified by adding 1N hydrochloric acid and extracted with 200 ml of ethyl acetate. The organic layer was washed with water, and concentrated under reduced pressure. A formed precipitate was washed with ethanol, and then dissolved in a mixed solvent of tetrahydrofuran and methanol (30 ml, 20 ml). To the solution was added potassium hydroxide solution (3.0 g/30 ml), and the mixture was stirred at room temperature for 1.5 hours. A 100 ml of water and 50 ml of ethyl acetate was added to the solution for separation of each layer. An aqueous layer was acidified with conc. hydrochloric acid, and a formed precipitate was filtrated to give 1.4 g (yield 51.1%) of objective α-cyano-3,5-dimethoxy-4-hydroxycinnamic acid.

reactant | syringaldehyde | 11.0 mmol, 2 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | ethyl cyanoacetate | 11.3 mmol, 1.2 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | α-cyano-3,5-dimethoxy-4-hydroxycinnamic acid | 1.4 g, yield 51.1% | C(#N)C(C(=O)O)=CC1=CC(=C(C(=C1)OC)O)OC | C12H11NO5
